US07119120B2
2-Aminomethyl-5-trifluoromethoxy-phenol
2-Chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide (9.9 g, 37.4 mmol) was dissolved in a mixture of ethanol (100 mL)/aqueous HCl (12 M, 50 mL). The mixture was refluxed for ˜6 hours. The solvent was removed by rotary evaporation and the residue was azeotropically dried by dissolution in ethyl acetate followed by rotary evaporation (6×150 mL). The resulting solid was suspended in ethyl acetate (100 mL), collected by filtration and dried at 65° C. in a vacuum oven overnight. Recovery: 8.68 g (95.3% yield). M/Z (−HCl) of [M−H]−=208. 1H NMR (D2O) δ=7.26–7.22 (1H, sd), 6.76–6.75 (2H, br), 4.07 (2H, s).

reactant | 2-Chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide | 37.4 mmol, 9.9 g | ClCC(=O)NCC1=C(C=C(C=C1)OC(F)(F)F)O | C10H9ClF3NO3
solvent | ethanol | C(C)O | C2H6O
solvent | HCl | 12 M, 100 mL | Cl | ClH
product | 2-Aminomethyl-5-trifluoromethoxy-phenol | 95.3% yield | NCC1=C(C=C(C=C1)OC(F)(F)F)O | C8H8F3NO2
